US05076832
To a methylene chloride (i000 mL) solution of 2-chloro-2-phenylacetyl chloride (50.0 grams, 0.26 mol) and concentrated sulfuric acid (100 mL) cooled in an ice bath was added dropwise fuming nitric acid (20.0 grams, 0.32 mol). The mixture was allowed to stir for two hours and then poured into ice (500 mL). The organic layer was washed with saturated sodium chloride solution (2×200 mL), dried with magnesium sulfate and filtered through a thin pad of silica gel. To this methylene chloride solution was added oxalyl chloride (13.2 grams, 0.52 mol) and N,N-dimethylformamide (9 drops). The mixture was stirred at room temperature for 1.5 hours, was heated under reflux for 20 minutes, and concentrated in a rotary evaporator to give the desired 2-chloro-2-(3-nitrophenyl)acetyl chloride (50.2 grams, 81% yield whose structure was confirmed by nuclear magnetic resonance, infra-red spectroscopy, and mass spectroscopy analysis.

reactant | 2-chloro-2-phenylacetyl chloride | 0.26 mol, 50.0 grams | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.32 mol, 20.0 grams | [N+](=O)(O)[O-] | HNO3
reactant | oxalyl chloride | 0.52 mol, 13.2 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | 9 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-2-(3-nitrophenyl)acetyl chloride | 81% yield | ClC(C(=O)Cl)C1=CC(=CC=C1)[N+](=O)[O-] | C8H5Cl2NO3
